US04945100
2-(2,4-dichlorophenyl)-2-methoxybutan-1-ol
10.64 g of boron trifluoride-etherate, dissolved in 30 ml of methanol, are added dropwise at 4°-6° C. to a solution of 16.25 g (75 mmoles) of 2-(2,4-dichlorophenyl)-1,2-epoxybutane of purity 95%, in 30 ml of methanol. The clear solution is then allowed to reach room temperature (20° C.) in a water bath and, after 16 hours, is worked up by extraction with water and chloroform. The chloroform solution is washed with NaHCO3 and dried with Na2SO4, and the solvent is removed on a rotary evaporator. This gives 19 g of crude product, which is purified by chromatography, using silica gel and a mixture of 4 parts of petroleum ether and one part of ethyl acetate. Removing the solvent at 60° C. in vacuo (20 mbar) gives 13.35 g (75.2%) of pure product in the form of a colourless oil. 60 MHz-1H-NMR (DCCl3): δ=7.1-7.6 ppm (m, 3H, aromatic); 3.7-4.6 ppm (m, --CH2OH); 3.28 ppm (s, OCH3); 1.6-2.3 ppm (m, CH2CH3, OH); 0.67 ppm (t, CH2CH3).

reactant | boron trifluoride-etherate | 10.64 g | B(F)(F)F.CCOCC
reactant | 2-(2,4-dichlorophenyl)-1,2-epoxybutane | 75 mmoles, 16.25 g | ClC1=C(C=CC(=C1)Cl)C1(CO1)CC | C10H10Cl2O
solvent | methanol | 30 ml | CO | CH4O
solvent | methanol | 30 ml | CO | CH4O
product | 2-(2,4-dichlorophenyl)-2-methoxybutan-1-ol | 13.35 g, 75.2% | ClC1=C(C=CC(=C1)Cl)C(CO)(CC)OC | C11H14Cl2O2
